US05763437
To a solution of 2-azatricyclo[4.3.1.14,8 ]undecane (0.30 g) in dichloromethane (4 ml) and water (0.4 ml) was added dropwise a solution of chloroacetyl chloride (0.26 g) in dichloromethane (2 ml) under stirring at cooling in an ice-bath. The mixture was stirred 2 hours under the same condition and then at ambient temperature overnight. The reaction mixture was washed with IN hydrochloric acid aqueous solution and saturated sodium bicarbonate aqueous solution, and dried over sodium sulfate. Removal of the solvent gave N-chloromethylcarbonyl-2-azatricyclo-[4.3.1.14,8 ]undecane (0.33 g), which was used in a following reaction step without further purification.

reactant | 2-azatricyclo[4.3.1.14,8 ]undecane | 0.30 g | C12NCC3CC(CC(C1)C3)C2 | C10H17N
reactant | chloroacetyl chloride | 0.26 g | ClCC(=O)Cl | C2H2Cl2O
solvent | dichloromethane | 4 ml | ClCCl | CH2Cl2
solvent | water | 0.4 ml | O | H2O
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
product | N-chloromethylcarbonyl-2-azatricyclo-[4.3.1.14,8 ]undecane | 0.33 g | ClCC(=O)N1C2CC3CC(CC(C1)C3)C2 | C12H18ClNO
